US08809339B2
N-methyl-2-morpholinoethanamine
Into a 250-mL 3-necked round bottom flask, was placed a solution of LiAlH4 (7.72 g, 208.65 mmol, 3.00 equiv) in tetrahydrofuran (60 mL). To this was added dropwise a solution of tert-butyl 2-morpholinoethylcarbamate (16 g, 62.61 mmol, 1.00 equiv, 90%) in tetrahydrofuran (40 mL) with stirring at 0-5° C. The resulting solution was stirred for 2 h at 70° C. in a oil bath. The reaction was then quenched by the addition of 7.7 mL of water, 7.7 mL of 15% sodium hydroxide, and 23.1 mL of water. The solids were filtered out. The mixture was dried over sodium sulfate and concentrated under vacuum. The residue was applied onto a silica gel column and eluted with dichloromethane:methanol (0.5% triethylamine) (20:1). This resulted in 4.2 g (42%) of N-methyl-2-morpholinoethanamine as brown oil.

reactant | LiAlH4 | 208.65 mmol, 7.72 g, 3.00 equiv | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | tert-butyl 2-morpholinoethylcarbamate | 62.61 mmol, 16 g, 1.00 equiv | O1CCN(CC1)CCNC(OC(C)(C)C)=O | C11H22N2O3
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | N-methyl-2-morpholinoethanamine | CNCCN1CCOCC1 | C7H16N2O
